US05852014
b) Methyl 1-methyl-1,2,3,4-tetrahydropyrimido[1,2-a]indole-10-Carboxylate
A solution of methyl 2-chloroindole-3-carboxylate (3.4 g, 0.016 mole) in dry THF (70 ml) at 5° C. under nitrogen was treated portionwise with sodium hydride (480 mg of 80% oil dispersion, 0.016 mole) and then stirred at room temperature for 30 mins. The resulting solution was treated with a solution of 3,3-dimethylaminopropyl chloride (0.020 mole) in toluene (30 ml) and heated under reflux for 48 h, then concentrated in vacuo and the residue treated with 10% Na2CO3 solution (50 ml) and extracted with ethyl acetate (2×70 ml). The combined extracts were dried (Na2SO4) and concentrated in vacuo to leave a yellow oil, which was chromatographed on silica gel eluting with ether/60-80 petrol (1:1). The title compound (D11) was obtained as a beige solid (1.95 g, 50%).

reactant | methyl 2-chloroindole-3-carboxylate | 0.016 mole, 3.4 g | ClC=1NC2=CC=CC=C2C1C(=O)OC | C10H8ClNO2
reactant | sodium hydride | 0.016 mole, 480 mg | [H-].[Na+]
reactant | 3,3-dimethylaminopropyl chloride | 0.020 mole | CNC(CCCl)NC | C5H13ClN2
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 1-methyl-1,2,3,4-tetrahydropyrimido[1,2-a]indole-10-Carboxylate | CN1CCCN2C1=C(C=1C=CC=CC21)C(=O)OC | C14H16N2O2
